### ISSUE TITLE
`(kernel) constant has already been declared` during `simp`

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#6067]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

```lean
inductive Impl where
  | inner (l r : Impl)
  | leaf

namespace Impl

inductive Balanced : Impl → Prop where
  | leaf : Balanced leaf

@[inline]
def balanceLErase (r : Impl) (hrb : Balanced r) : Impl :=
  match r with
  | leaf => .leaf
  | l@(inner _ _) =>
    match l with
    | leaf => .leaf
    | r@(inner ll lr) =>
        if true then
          match ll, lr with
          | inner _ _, inner _ _ => .leaf
          | _, _ => .leaf
        else .leaf

/-- error: (kernel) constant has already been declared 'Impl.balanceLErase.match_1.eq_1' -/
#guard_msgs in
theorem size_balanceLErase {r : Impl} {hrb} : (balanceLErase r hrb) = .leaf := by
  simp only [balanceLErase.eq_def]
```

**Expected behavior:** No error

**Actual behavior:** See above

### Versions

`4.15.0-nightly-2024-11-13` on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
One of the matches cannot be split:
```
set_option trace.split.failure true
/--
error: tactic 'split' failed, consider using `set_option trace.split.failure true`
case h_2.h_2
r✝¹ : Impl
hrb✝² : r✝¹.Balanced
l✝¹ r✝ l✝ : Impl
h✝¹ : l✝ = l✝¹.inner r✝
hrb✝¹ : (namedPattern l✝ (l✝¹.inner r✝) h✝¹).Balanced
ll✝ lr✝ : Impl
h✝ : ll✝.inner lr✝ = l✝¹.inner r✝
hrb✝ : (l✝¹.inner r✝).Balanced
heq✝¹ : l✝¹.inner r✝ = ll✝.inner lr✝
heq✝ : HEq ⋯ h✝
⊢ (match ll✝, lr✝, ⋯, h✝, hrb✝ with
    | l.inner r, l_1.inner r_1, h, h_1, hrb => leaf
    | x, x_1, h, h_1, hrb => leaf) =
    leaf
---
info: [split.failure] `split` tactic failed at
      match ll✝, lr✝, ⋯, h✝, hrb✝ with
      | l.inner r, l_1.inner r_1, h, h_1, hrb => Impl.leaf
      | x, x_1, h, h_1, hrb => Impl.leaf
    tactic 'contradiction' failed, metavariable has already been assigned
    l✝¹ r✝¹ l✝ r✝ : Impl
    hrb✝ : ((l✝¹.inner r✝¹).inner (l✝.inner r✝)).Balanced
    motive :
      (ll lr : Impl) →
        (h : (l✝¹.inner r✝¹).inner (l✝.inner r✝) = ll.inner lr) →
          (h_3 :
              namedPattern ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) (ll.inner lr) h =
                (l✝¹.inner r✝¹).inner (l✝.inner r✝)) →
            (namedPattern (namedPattern ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) (ll.inner lr) h)
                  ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) h_3).Balanced →
              Sort u_1
    h✝ :
      namedPattern ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) ⋯ =
        (l✝¹.inner r✝¹).inner (l✝.inner r✝)
    hrb :
      (namedPattern (namedPattern ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) ⋯)
          ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) h✝).Balanced
    h_1 :
      (l r l_1 r_1 : Impl) →
        (h : (l✝¹.inner r✝¹).inner (l✝.inner r✝) = (l.inner r).inner (l_1.inner r_1)) →
          (h_3 :
              namedPattern ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) ((l.inner r).inner (l_1.inner r_1)) h =
                (l✝¹.inner r✝¹).inner (l✝.inner r✝)) →
            (hrb :
                (namedPattern (namedPattern ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) ((l.inner r).inner (l_1.inner r_1)) h)
                    ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) h_3).Balanced) →
              motive (l.inner r) (l_1.inner r_1) h h_3 hrb
    h_2 :
      (x x_1 : Impl) →
        (h : (l✝¹.inner r✝¹).inner (l✝.inner r✝) = x.inner x_1) →
          (h_3 :
              namedPattern ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) (x.inner x_1) h =
                (l✝¹.inner r✝¹).inner (l✝.inner r✝)) →
            (hrb :
                (namedPattern (namedPattern ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) (x.inner x_1) h)
                    ((l✝¹.inner r✝¹).inner (l✝.inner r✝)) h_3).Balanced) →
              motive x x_1 h h_3 hrb
    l_eq✝² : l✝¹ = l✝¹
    r_eq✝³ : r✝¹ = r✝¹
    l_eq✝¹ : l✝ = l✝
    r_eq✝² : r✝ = r✝
    r_eq✝¹ : l✝.inner r✝ = l✝.inner r✝
    l_eq✝ : l✝¹ = l✝¹
    r_eq✝ : r✝¹ = r✝¹
    ⊢ False
-/
#guard_msgs in
theorem size_balanceLErase {r : Impl} {hrb} : (balanceLErase r hrb) = .leaf := by
  rw [balanceLErase.eq_def]
  split
  · rfl
  · split
    · rfl
    · dsimp
      split      
```

My assumption for this bug is that when simp tries to rewrite with the equations, and thus creates the splitter and equations, then this process fails when adding `.eq_1`, but the environment isn’t rolled back, so simp tries again, but now `.eq_1` already exists.

Didn’t dig deeper, but if that’s true, then

* we should move the splitter generation into the same machinery as other realizable constants, just for uniformity (I believe @Kha has that on a branch already?)
* implemented #5944 so that we do not try to generate the splitter over and over
* make sure that if it fails, we roll back the environment changes.

**Comment by Kha** [comment]
> we should move the splitter generation into the same machinery as other realizable constants, just for uniformity (I believe @Kha has that on a branch already?)

Yep, I can land that independently once the general `Environment.realizeConst` machinery has landed
